US05665718
473 mg (1.1 mmol) of (S)-1-(5-diallylaminomethyl-1,2,4-oxadiazol-3-yl)-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one were hydrogenated in 10 ml of ethyl acetate in the presence of 20 mg of 5% palladium-on-charcoal at room temperature and normal pressure. After separating the catalyst the solution was concentrated. There was obtained 0.42 g (80%) of (S)-8-chloro-1-(5-dipropylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted into the hydrochloride of m.p. 147°-153°.

reactant | (S)-1-(5-diallylaminomethyl-1,2,4-oxadiazol-3-yl)-8-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 1.1 mmol, 473 mg | C(C=C)N(CC=C)CC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3Cl)=O)CC1 | C22H21ClN6O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | 20 mg | [Pd] | Pd
product | (S)-8-chloro-1-(5-dipropylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 0.42 g, 80% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NOC(=N3)CN(CCC)CCC)CC1)=O | C22H25ClN6O2
